US08283478B2
N-[(1-methyl-1H-indol-3-yl)methyl]-sulfamide (Compound #7)
N-Methylindole-3-carboxaldehyde (1.66 g, 10.4 mmol) was dissolved in anhydrous ethanol (50 mL). Sulfamide (4.5 g, 47 mmol) was added and the mixture was heated to reflux for 16 hours. Additional sulfamide (1.0 g, 10.4 mmol) was added and the mixture was heated to reflux for 24 hours. The mixture was cooled to room temperature. Sodium borohydride (0.722 g, 12.5 mmol) was added and the mixture was stirred at room temperature for one hour. The reaction was diluted with water (50 mL) and extracted with DCM (3×75 mL). The extracts were concentrated and about 1 mL of methanol was added to create a slurry which was filtered to yield the title compound as a white powder.

reactant | N-Methylindole-3-carboxaldehyde | 10.4 mmol, 1.66 g | CN1C=C(C2=CC=CC=C12)C=O | C10H9NO
reactant | Sulfamide | 47 mmol, 4.5 g | S(=O)(=O)(N)N | H4N2O2S
reactant | sulfamide | 10.4 mmol, 1.0 g | S(=O)(=O)(N)N | H4N2O2S
reactant | Sodium borohydride | 12.5 mmol, 0.722 g | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | N-[(1-methyl-1H-indol-3-yl)methyl]-sulfamide | CN1C=C(C2=CC=CC=C12)CNS(=O)(=O)N | C10H13N3O2S
